US08802670B2
2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine was reacted with 2-aminopyrimidine-5-boronic acid pinacol ester in general procedure A. Purification by column chromatography yielded 5-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidin-2-yl]-pyrimidin-2-ylamine.

reactant | 2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O3S2
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
product | 5-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidin-2-yl]-pyrimidin-2-ylamine | CS(=O)(=O)N1CCN(CC1)CC1=CC2=C(N=C(N=C2N2CCOCC2)C=2C=NC(=NC2)N)S1 | C20H26N8O3S2
